US06140448
Preparation of [1-(N,N-Dimethylaminopropyl)indenyl]-(cyclopentadienyl)zirconium Dichloride
Example 1 was repeated in the same manner as described except that 1-(N,N-dimethylaminopropyl)indene was substituted for (N,N-dimethylaminoethyl)cyclopentadiene and that cyclopentadienylzirconium trichloride was substituted for pentamethylcyclopentadienylzirconium trichloride. The yield was 40.0%. The physical properties of the product are as follows:

reactant | 1-(N,N-dimethylaminopropyl)indene | CN(C)CCCC1C=CC2=CC=CC=C12 | C14H19N
reactant | (N,N-dimethylaminoethyl)cyclopentadiene | CN(C)CCC1=CC=CC1 | C9H15N
reactant | cyclopentadienylzirconium trichloride | [Cl-].[Cl-].[Cl-].C1(C=CC=C1)[Zr+3]
reactant | pentamethylcyclopentadienylzirconium trichloride | [Cl-].[Cl-].[Cl-].C[Zr](C1C=CC=C1)(C)(C)(C)C
product | [1-(N,N-Dimethylaminopropyl)indenyl]-(cyclopentadienyl)zirconium Dichloride | yield was 40.0% | [Cl-].[Cl-].CN(C)CCCC1C(=CC2=CC=CC=C12)[Zr+2]C1C=CC=C1 | InChI=1S/C14H18N.C5H5.2ClH.Zr/c1-15(2)11-5-7-13-10-9-12-6-3-4-8-14(12)13;1-2-4-5-3-1;;;/h3-4,6,8-9,13H,5,7,11H2,1-2H3;1-5H;2*1H;/q;;;;+2/p-2
